US06479495B1
1-[[4-(Dimethylaminocarbonyloxy)-3-(methoxy)phenyl]methyl-4-(3-methoxyphenyl)piperazine Hydrochloride Hydrate
To a solution of 4-(dimethylaminocarbonyloxy)-3-(methoxy)benzaldehyde (0.5 g) in 1,2-dichloromethane (9 ml) was added 1-(3-methoxyphenyl)piperazine (0.48 g) in 1,2-dichloroethane (1 ml) and sodium triacetoxyborohydride (0.66 g), with stirring. The reaction mixture was stirred at ambient temperature for 16 hrs, poured into ice/sodium carbonate solution and extracted with ethyl acetate. The extracts were washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was flash chromatographed (silica gel), eluting with chloroform, 1% and 2% methanol:chloroform. The appropriate fractions were collected and concentrated. The residue was flash chromatographed as above. The residue was dissolved in chloroform/ether and ethereal hydrogen chloride was added. The precipitate was collected to give the analytical sample, mp 144-153° C.

reactant | 4-(dimethylaminocarbonyloxy)-3-(methoxy)benzaldehyde | 0.5 g | CN(C(=O)OC1=C(C=C(C=O)C=C1)OC)C | C11H13NO4
reactant | 1-(3-methoxyphenyl)piperazine | 0.48 g | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
reactant | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
solvent | sodium triacetoxyborohydride | 0.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | [4-(Dimethylaminocarbonyloxy)-3-(methoxy)phenyl]methyl-4-(3-methoxyphenyl)piperazine Hydrochloride Hydrate | O.Cl.CN(C(=O)OC1=C(C=C(C=C1)CN1CCN(CC1)C1=CC(=CC=C1)OC)OC)C | InChI=1S/C22H29N3O4.ClH.H2O/c1-23(2)22(26)29-20-9-8-17(14-21(20)28-4)16-24-10-12-25(13-11-24)18-6-5-7-19(15-18)27-3;;/h5-9,14-15H,10-13,16H2,1-4H3;1H;1H2
